US06939871B2
7,8-Difluoro-6-hydroxymethyl-4H-benzo[1,4]oxazin-3-one (D55)
Triethylamine (2.4 mL, 17.3 mmol) was added to a suspension of 7,8-difluoro-4H-benzo[1,4]oxazine-3-one-6-carboxylic acid (3.6 g, 15.7 mmol) in anhydrous THF (250 mL). Isobutyl chloroformate (2.2 mL, 17.3 mmol) was added to the mixture at ice cold temperature over 0.5 hour. Stirring was continued for further 2 hours at room temperature. It was then cooled in ice and the solid was removed by filtration. The filtrate was added to a cold solution of sodium borohydride (3.2 g) in water. The mixture was stirred in cold for 1 hour before it was concentrated in vacuo to half and acidified with 2M hydrochloric acid. The resulting solid precipitate was collected by filtration and dried to give the title compound (1.15 g, 22%).

reactant | Triethylamine | 17.3 mmol, 2.4 mL | C(C)N(CC)CC | C6H15N
reactant | 7,8-difluoro-4H-benzo[1,4]oxazine-3-one-6-carboxylic acid | 15.7 mmol, 3.6 g | FC1=C(C2=C(NC(CO2)=O)C=C1C(=O)O)F | C9H5F2NO4
reactant | Isobutyl chloroformate | 17.3 mmol, 2.2 mL | ClC(=O)OCC(C)C | C5H9ClO2
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 7,8-Difluoro-6-hydroxymethyl-4H-benzo[1,4]oxazin-3-one | 1.15 g, 22% | FC1=C(C2=C(NC(CO2)=O)C=C1CO)F | C9H7F2NO3
